US07504401B2
4-(3-Bromo-5-triisopropylsilanyloxy-phenylamino)-benzonitrile was converted to 5-[3-(1-triisopropylsilanyl-1H-indol-4-yl)-5-triisopropylsilanyloxy-phenylamino]-pyridine-2-carbonitrile, and the triisopropylsilyl groups were removed with tetra n-butylammonium fluoride to give 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridine-2-carbonitrile as described in Example 35. 1H NMR (400 MHz, CD3OD) δ 8.31 (dd, J=2.8, 0.4 Hz, 1H), 7.57 (dd, J=8.8, 0.8 Hz, 1H), 7.49 (dd, J=8.8, 2.8 Hz, 1H), 7.35 (m, 1H), 7.26 (d, J=3.2 Hz, 1H), 7.14 (t, J=7.6 Hz, 1H), 7.05 (dd, J=7.2, 1.2 Hz, 1H), 6.97 (m, 1H), 6.89 (dd, J=2.4, 1.6 Hz, 1H), 6.66 (m, 1H), 6.61 (m, 1H).

reactant | 4-(3-Bromo-5-triisopropylsilanyloxy-phenylamino)-benzonitrile | BrC=1C=C(C=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)NC1=CC=C(C#N)C=C1 | C22H29BrN2OSi
reactant | 5-[3-(1-triisopropylsilanyl-1H-indol-4-yl)-5-triisopropylsilanyloxy-phenylamino]-pyridine-2-carbonitrile | C(C)(C)[Si](N1C=CC2=C(C=CC=C12)C=1C=C(C=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)NC=1C=CC(=NC1)C#N)(C(C)C)C(C)C | C38H54N4OSi2
product | 5-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-pyridine-2-carbonitrile | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)NC=1C=CC(=NC1)C#N | C20H14N4O
